US07790885B2
1-[2-Fluoro-4-(2-{[4-(4-methylpiperazin-1-yl)piperidine-1-carbonyl]amino}piperidin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester trihydrochloride
1-[2-Fluoro-4-(2-{[4-(4-methylpiperazin-1-yl)piperidine-1-carbonyl]amino}piperidin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester (189 mg) was dissolved in ethyl acetate (6 ml), and 4N hydrochloric acid in ethyl acetate (0.3 ml) was added. The resultant mixture was concentrated under reduced pressure, and methanol (0.5 ml) and ethyl acetate (4 ml) was added. The precipitate obtained by filtration was hygroscopic, thus it was collected using methanol (10 ml). The collected solution was again concentrated under reduced pressure, and methanol (0.5 ml) and tert-butyl methyl ether (4 ml) was added. The precipitate was filtered to give the title compound (102 mg).

reactant | 1-[2-Fluoro-4-(2-{[4-(4-methylpiperazin-1-yl)piperidine-1-carbonyl]amino}piperidin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester | 189 mg | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(NC1=C(C=C(C=C1)OC1CC(NCC1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)F)=O | C34H45FN6O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.3 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-Fluoro-4-(2-{[4-(4-methylpiperazin-1-yl)piperidine-1-carbonyl]amino}piperidin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester trihydrochloride | 102 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)OC(=O)C1(CC1)C(NC1=C(C=C(C=C1)OC1CC(NCC1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)F)=O | InChI=1S/C34H45FN6O5.3ClH/c1-39-17-19-40(20-18-39)25-10-15-41(16-11-25)33(44)38-30-22-27(9-14-36-30)46-26-7-8-29(28(35)21-26)37-31(42)34(12-13-34)32(43)45-23-24-5-3-2-4-6-24;;;/h2-8,21,25,27,30,36H,9-20,22-23H2,1H3,(H,37,42)(H,38,44);3*1H
